US07402595B2
2-benzyl-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
A mixture of 6-fluoro-4-phenylisocoumarin-3-carboxylic acid (300 mg), benzylamine (230 mg), triethylamine (0.3 ml) and methanol (3 ml) was stirred at 50° C. for 36 hrs. The reaction mixture was concentrated, 1N-hydrochloric acid was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. 4N-Hydrochloric acid-ethyl acetate solution (3 ml) was added to the residue at room temperature, and the mixture was stirred for 12 hrs. The reaction mixture was concentrated under reduced pressure and the obtained crystals were washed with (diisopropyl ether) to give the title compound, 2-benzyl-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (300 mg).

reactant | 6-fluoro-4-phenylisocoumarin-3-carboxylic acid | 300 mg | FC=1C=C2C(=C(OC(=O)C2=CC1)C(=O)O)C1=CC=CC=C1 | C16H9FO4
reactant | benzylamine | 230 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 3 ml | CO | CH4O
product | 2-benzyl-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 300 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)F)=O | C23H16FNO3
